US04057542
A solution of 113.5 parts of crude androst-4-ene-3,17-dione in 427 parts of methanol is heated to just below reflux temperature. To the resulting stirred solution there is added 4.3 parts of pyrrolidine. After five minutes, more pyrrolidine is added at a steady rate so that 33.2 parts are added over a period of 25 minutes. The warm mixture is then stirred for an additional 15 minutes before it is cooled to 5°-10° C. The solid product which formed during the reaction is then separated by filtration and washed several times with methanol at 10° C. The solid is then dried to give 3-(1-pyrrolidinyl)androsta-3,5-dien-17-one melting at about 217°-220° C.

reactant | androst-4-ene-3,17-dione | C[C@@]12C(CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)=O | C19H26O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | methanol | CO | CH4O
product | 3-(1-pyrrolidinyl)androsta-3,5-dien-17-one | N1(CCCC1)C1=CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C23H33NO
